US04287372
A mixture of 0.5 mole each of p-nitrochlorobenzene (79.0 g), p-hydroxyanisole (62.0 g), and potassium hydroxide (33.0 g, 86% pure), in 100 ml water was heated at 140° C. for about 3.5 hours. The resulting solid, collected by filtration, had a melting point of 100°-107° C. Reactants were further removed from the crude product by steam distillation, and the remaining solid was washed with copious amounts of water to afford a brown, granular mass of 4-methoxy-4'-nitrodiphenyl ether (83 g, 68% yield).

reactant | p-nitrochlorobenzene | 0.5 mole, 79.0 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
reactant | p-hydroxyanisole | 62.0 g | OC1=CC=C(C=C1)OC | C7H8O2
reactant | potassium hydroxide | 33.0 g | [OH-].[K+]
solvent | water | 100 ml | O | H2O
product | 4-methoxy-4'-nitrodiphenyl ether | 83 g, 68% yield | COC1=CC=C(C=C1)OC2=CC=C(C=C2)[N+](=O)[O-] | C13H11NO4
